US08492401B2
A solution of ethyl 2-benzamido-3-oxobutanoate (13.0 g, 0.052 mol) in phosphorus oxychloride (100 mL) was heated under reflux for 1.5 h, then cooled and concentrated under reduced pressure to a brown syrup which was dissolved in dichloromethane (250 mL). The solution was washed with water, saturated Na2CO3 and brine successively, then dried over anhydrous Na2SO4 and concentrated to give ethyl 5-methyl-2-phenyloxazole-4-carboxylate as a brown oil (11.0 g, 91% yield).

reactant | ethyl 2-benzamido-3-oxobutanoate | 0.052 mol, 13.0 g | C(C1=CC=CC=C1)(=O)NC(C(=O)OCC)C(C)=O | C13H15NO4
solvent | phosphorus oxychloride | 100 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 5-methyl-2-phenyloxazole-4-carboxylate | 11.0 g, 91% yield | CC1=C(N=C(O1)C1=CC=CC=C1)C(=O)OCC | C13H13NO3
